US07678815B2
5-Amino-2-methyl-thiazole-4-carboxylic acid ethyl ester (0.40 g, 2.15 mmol) was dissolved in 20 ml dry THF. Di-tert.-butyl dicarbonate (0.526 g, 4.41 mmol) and 4-(N,N-dimethylamino)pyridine (0.036 g, 0.3 mmol) were added and the reaction mixture was stirred at 70° C. overnight. The solvent was evaporated, the residue taken up in 20 mL saturated sodium bicarbonate solution and extracted three times with ethyl acetate (30 mL each). The organic phases were pooled, dried with sodium sulfate and evaporated. The crude product was flash-chromatographed on silica gel with heptane/ethyl acetate 100:0→0:100 gradient to yield 5-tert-butoxycarbonylamino-2-methyl-thiazole-4-carboxylic acid ethyl ester as a light yellow solid (0.553 g, 90%), MS (ISP): m/e=287.1 (M+H+).

reactant | 5-Amino-2-methyl-thiazole-4-carboxylic acid ethyl ester | 2.15 mmol, 0.40 g | C(C)OC(=O)C=1N=C(SC1N)C | C7H10N2O2S
reactant | Di-tert.-butyl dicarbonate | 4.41 mmol, 0.526 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | 4-(N,N-dimethylamino)pyridine | 0.3 mmol, 0.036 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 5-tert-butoxycarbonylamino-2-methyl-thiazole-4-carboxylic acid ethyl ester | 0.553 g, 90% | C(C)OC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)C | C12H18N2O4S
